US06492355B1
a) (+/−)-2-Chloro-5-[3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-pyrrolidinyl]-benzoic acid, ethyl ester
Prepared as described in Example 5a) using 5-bromo-2-chloro-benzoic acid, ethyl ester (0.50 g), 3-pyrrolidinyl-carbamic acid 1,1-dimethylethyl ester (0.42 g), cesium carbonate (0.86 g), palladium (II) acetate (21 mg) and (R)-BINAP (88 mg) and toluene (3 ml) to afford the subtitle compound as an oil (0.25 g).

reactant | 5-bromo-2-chloro-benzoic acid, ethyl ester | 0.50 g | BrC=1C=CC(=C(C(=O)OCC)C1)Cl | C9H8BrClO2
reactant | 3-pyrrolidinyl-carbamic acid 1,1-dimethylethyl ester | 0.42 g | CC(C)(C)OC(NC1CNCC1)=O | C9H18N2O2
reactant | cesium carbonate | 0.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-BINAP | 88 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
catalyst | palladium (II) acetate | 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | (+/−)-2-Chloro-5-[3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-pyrrolidinyl]-benzoic acid, ethyl ester | 0.25 g | ClC1=C(C(=O)OCC)C=C(C=C1)N1CC(CC1)NC(=O)OC(C)(C)C | C18H25ClN2O4
